US04272437
3-Azidopentanoic acid
t-Butyl 3-azidopentanoate (1.84 g, 9.23 mmol) was dissolved in 99% trifluroacetic acid (2 ml) and stirred at room temperature for 1 h and evaporated to dryness. The traces of solvent and isobutylene were removed in vacuo to give an oily substance (990 mg, 44.0%). ir (neat) νmax : 3100 (broad, OH), 2100 (N3) and 1710 cm-1 (C=O of acid); 1Hmr (CDCl3) δ: 1.06 (3H, t), 1.60 (2H, q), 2.57 (2H, d), 3.43 (H, m) and 11.73 ppm (H, s). Anal. calcd for C5H9N3O2 : C 41.95, H 6.33; found: C 41.22, H 6.05.

reactant | t-Butyl 3-azidopentanoate | 9.23 mmol, 1.84 g | N(=[N+]=[N-])C(CC(=O)OC(C)(C)C)CC | C9H17N3O2
solvent | trifluroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Azidopentanoic acid | N(=[N+]=[N-])C(CC(=O)O)CC | C5H9N3O2
